US05646173
An ozone stream (3 g ozone/hour) was conducted for 90 minutes while stirring through a solution, cooled to -70°, of 12.0 g of (RS)-2-(2-buten-1-yl)-4-methyl-1-indanone in 220 ml of anhydrous dichloromethane and 45 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 6.6 ml of dimethyl sulfide, the mixture was stirred at room temperature for 15 hours. The reaction mixture was evaporated in a vacuum, the residue was treated with 160 ml of dichoromethane and, after the addition of 20 ml of water and 20 ml of trifluoroacetic acid, stirred at room temperature for 2 hours. The mixture was subsequently poured into 200 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 50 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 200 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. 10.6 g (94%) of (RS)-2-(2-oxoethyl)-4-methyl-1-indanone were obtained as a light yellow oil.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-4-methyl-1-indanone | 12.0 g | C(C=CC)C1C(C2=CC=CC(=C2C1)C)=O | C14H16O
solvent | dichloromethane | 220 ml | ClCCl | CH2Cl2
solvent | methanol | 45 ml | CO | CH4O
product | (RS)-2-(2-oxoethyl)-4-methyl-1-indanone | 10.6 g, 94% | O=CCC1C(C2=CC=CC(=C2C1)C)=O | C12H12O2
